US06469176B1
Preparation of 4-Bromo-2-(4,5-dihydroisoxazol-3-yl)-3-methylbenzenesulfonyl Chloride
At 15° C., a solution of 9 g (35 mmol) of 4-bromo-2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline in 50 ml of glacial acetic acid is added to 15 ml of conc. hydrochloric acid. At 5-10° C., a solution of 2.44 g (35 mmol) of sodium nitrite in 10 ml of water is then added dropwise, and the mixture is stirred at 5° C. for 1 hour. At room temperature, this solution is then added dropwise to a mixture of a solution of 47 g (0.74 mol) of sulfur dioxide in 100 ml of glacial acetic acid and a solution of 2.23 g (13 mmol) of copper(II) chloride in 5 ml of water. The reaction mixture is stirred at room temperature for 1 hour and subsequently poured into 300 ml of ice-water and extracted with methylene chloride. The organic phase is washed with water, dried with magnesium sulfate and concentrated.

reactant | 4-bromo-2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline | 35 mmol, 9 g | BrC1=C(C(=C(N)C=C1)C1=NOCC1)C | C10H11BrN2O
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | sodium nitrite | 35 mmol, 2.44 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | 0.74 mol, 47 g | S(=O)=O | O2S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
catalyst | copper(II) chloride | 13 mmol, 2.23 g | [Cu](Cl)Cl
product | 4-Bromo-2-(4,5-dihydroisoxazol-3-yl)-3-methylbenzenesulfonyl Chloride | BrC1=C(C(=C(C=C1)S(=O)(=O)Cl)C1=NOCC1)C | C10H9BrClNO3S
